US05736534
N-[4-(6-Chloro-2,3-dihydro-indol-1-yl)-quinazolin-6-yl]-N',N'-dimethyl-propane-1,3-diamine
4-(6-Chloro-2,3-dihydro-indol-1-yl)-quinazolin-6-ylamine hydrochloride (0.525 g, 1.58 mmol) was combined with 2 mL of freshly distilled 3-dimethylaminopropyl chloride and heated to 120° C. for 1 hour. Yellow liquid was poured off and the remaining red glass was dissolved in water, basified to pH 11 with potassium carbonate, extracted with chloroform (2×50 mL), washed with brine, dried over magnesium sulfate, filtered and stripped to give 0.272 g yellow foam containing starting material and mono- and di-alkylated products. This foam was filtered through silica gel using chloroform, then the product was washed through the silica gel with 40% v/v methanol in chloroform and concentrated in vacuo. The residue was dissolved in methanol, treated with 1N HCl in methanol diluted with diethyl ether, filtered and dried under vacuum to afford a bright yellow solid, 0.0995 g (15%): M.P. 230° C. (dec):LC-MS: 382 (MH+), 384 ((M+2)H+).

reactant | 4-(6-Chloro-2,3-dihydro-indol-1-yl)-quinazolin-6-ylamine hydrochloride | 1.58 mmol, 0.525 g | Cl.ClC1=CC=C2CCN(C2=C1)C1=NC=NC2=CC=C(C=C12)N
reactant | 3-dimethylaminopropyl chloride | CN(CCCCl)C | C5H12ClN
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | water | O | H2O
product | N-[4-(6-Chloro-2,3-dihydro-indol-1-yl)-quinazolin-6-yl]-N',N'-dimethyl-propane-1,3-diamine | 0.272 g | ClC1=CC=C2CCN(C2=C1)C1=NC=NC2=CC=C(C=C12)NCCCN(C)C | C21H24ClN5
